Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right sided sensory changes
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ right-handed man with history
notable for apical variant hypertrophic cardiomyopathy, HTN c/b
CKD, pituitary microadenoma c/b hyperprolactinemia, and
hypothyroidism presenting with a transient episode of 
right-sided
sensory disturbance and lightheadedness.

Mr. ___ reports being in his usual state of health this
morning as he was driving to work; on turning the corner just
after pulling out from his house, around 07:20, he noted acute
onset of lightheadedness (without vertigo or disequilibrium) as
well as right-sided sensory disturbance. He reports having
previously had similar episodes of lightheadedness for which he
was evaluated by Cardiology, who noted minimal atrial and
ventricular ectopy on cardiac monitoring, and advised Mr. 
___
that he would likely need further cardiac monitoring if his
symptoms recurred to evaluate for an occult arrhythmia. However,
he denies a similar prior history of sensory disturbance, which
he describes today as initial "tingling" paresthesiae of the
entire left arm and much of the left leg (sparing the ankles and
feet) replaced by mild numbness when rubbing his arm with his
left hand for the next ___ minutes. He denies associated
headache, neck pain, photo- or phonophobia, nausea, vomiting, or
a radicular or radiating pattern to his sensory symptoms, and 
has
not had recurrent symptoms since initial onset. He discussed
these symptoms with his son, who is an internal medicine
resident, who recommended presentation to the ED for further
evaluation.

On review of systems, aside from the above, Mr. ___ denies
recent headache, vertigo, speech disturbance, vision change,
diplopia, hearing change, dysarthria, dysphagia, focal weakness,
paresthesiae, bowel or bladder incontinence, gait disturbance,
nausea, vomiting, chest discomfort, palpitations, abdominal 
pain,
changes in bowel or bladder habits, myalgias, arthralgias, or 
new
rash.

 
Past Medical History:
Apical variant hypertrophic cardiomyopathy
HTN c/b CKD
Pituitary microadenoma c/b hyperprolactinemia
Hypothyroidism
___
Eczematous dermatitis
Erectile dysfunction
 
Social History:
___
Family History:
Denies family history of neurological disorders, thrombotic
complications, or early miscarriages.
 
Physical Exam:
ADMISSION EXAM
PHYSICAL EXAMINATION
Vitals: T: 98.0  HR: 73  BP: 140/86  RR: 18  SpO2: 96% RA
General: NAD
HEENT: NCAT, no oropharyngeal lesions, neck supple
___: Warm, well-perfused
Pulmonary: No tachypnea or increased WOB
Abdomen: Soft, ND
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with intact comprehension
and naming of both high- and low-frequency objects. No
dysarthria. No apparent hemineglect. Able to follow both midline
and appendicular commands.

- Cranial Nerves: PERRL (4 to 3 mm ___. VF full to number
counting. EOMI, no nystagmus. V1-V3 without deficits to light
touch or PP bilaterally. No facial movement asymmetry. Hearing
intact to finger rub bilaterally. Palate elevation symmetric.
Trapezius strength ___ bilaterally. Tongue midline with good
excursions.

- Motor: No pronator drift.
  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L   5     5    5    5    ___    5     5   5    5  
R   5     5    5    5    ___    5     5   5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1+
 R  3+    3+     3+      2+       1+  
 Plantar response mute bilaterally. 

- Sensory: No deficits to light touch, pinprick, or cold
bilaterally. No extinction to DSS. Mild sway with Romberg.

- Coordination: No dysmetria with FNF or HKS testing 
bilaterally.

- Gait: Narrow-based and steady.
============================================
DISCHARGE EXAM

PHYSICAL EXAMINATION
24 HR Data (last updated ___ @ 840)
    Temp: 98.4 (Tm 98.4), BP: 131/90 (122-146/68-90), HR: 64
(60-72), RR: 16 (___), O2 sat: 98% (97-99), O2 delivery: RA  

General: NAD
HEENT: NCAT, no oropharyngeal lesions, neck supple
___: Warm, well-perfused
Pulmonary: No tachypnea or increased WOB
Abdomen: Soft, ND
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Attentive. Speech 
is
fluent with intact comprehension and naming of both high- and
low-frequency objects. No dysarthria. No apparent hemineglect.
Able to follow both midline and appendicular commands.

- Cranial Nerves: PERRL (4 to 3 mm ___. VF full to number
counting. EOMI, ___ beats of nystagmus on left gaze. V1-V3
without deficits to light touch or PP bilaterally. No facial
movement asymmetry. Hearing intact to finger rub bilaterally.
Palate elevation symmetric. Trapezius strength ___ bilaterally.
Tongue midline with good excursions.

- Motor: Very mild right pronation, no orbiting. 
  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L   5     5    5    5    ___    5     5   5    5  
R   5     5    5    5    ___    5     5   5    5  
 
- Reflexes: 3+ throughout with + cross abductors. Toes down b/l.

- Sensory: No deficits to light touch, pinprick bilaterally. No
extinction to DSS. 

- Coordination: No dysmetria with FNF or HKS testing 
bilaterally.

 
Pertinent Results:
___ 06:30AM BLOOD WBC-5.9 RBC-4.97 Hgb-13.5* Hct-42.3 
MCV-85 MCH-27.2 MCHC-31.9* RDW-15.8* RDWSD-48.5* Plt ___
___ 06:30AM BLOOD Plt ___
___ 06:30AM BLOOD Glucose-83 UreaN-22* Creat-1.5* Na-142 
K-5.0 Cl-105 HCO3-25 AnGap-12
___ 10:17AM BLOOD ALT-37 AST-25 AlkPhos-66 TotBili-1.1
___ 10:17AM BLOOD Lipase-30
___ 10:17AM BLOOD cTropnT-<0.01
___ 06:30AM BLOOD Calcium-9.5 Phos-3.7 Mg-2.0 Cholest-113
___ 11:45AM BLOOD %HbA1c-5.1 eAG-100
___ 06:30AM BLOOD Triglyc-83 HDL-50 CHOL/HD-2.3 LDLcalc-46
___ 10:17AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
PATIENT SUMMARY:
================
Mr. ___ is a ___ right-handed man with history 
notable for apical variant hypertrophic cardiomyopathy, HTN c/b 
CKD, pituitary microadenoma c/b hyperprolactinemia, and 
hypothyroidism presenting with a transient episode of 
right-sided sensory disturbance and lightheadedness.

NCHCT negative for acute stroke. MR with very small punctate 
subacute infarct in the left centrum semiovale. A stroke in this 
area explains his right sided sensory changes. Exam is normal. 
Etiology is likely small vessel disease
vs cardioembolic. 

Before MR imaging was finalized, seizure was on the differential 
for his transient symptoms, thus EEG was performed. Final read 
pending at time of discharge.

Risk factor labs notable for A1c 5.1%, TSH 3.9, LDL 46. Given 
LDL < 70, no indication to increase statin dose at the present 
time.

He was started on Aspirin 81 mg daily.

Given cardiac history and possible cardioembolic etiology, TTE 
was obtained. This showed apical hypertrophic cardiomyopathy 
without left ventricular or atrial mass (cardiac MRI would be 
more sensitive for focal apical thrombus, TEE for left atrial 
appendage thrombus). Mild mitral regurgitation. 

Ziopatch was placed for extended cardiac monitoring to assess 
for occult atrial fibrillation.

TRANSITIONAL ISSUES:
====================
- Continue aspirin 81mg for stroke prevention

- Ziopatch in place. Follow up read. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
=
=
=
=
=
=
=
================================================================
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 46) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [x ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No - at baseline. If no, why not? (I.e. patient at 
baseline functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  

 
Medications on Admission:
1. Acetaminophen prn
2. Levothyroxine Sodium 112 mcg PO DAILY 
3. Lisinopril 5 mg PO DAILY 
4. sildenafil 100 mg oral DAILY:PRN 
5. Vitamin D ___ UNIT PO DAILY 
6. Atorvastatin 10 mg PO QPM 
7. cabergoline .25 mg oral DAILY 
8. Senna 8.6 mg PO BID:PRN Constipation - First Line 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*3 
2.  Atorvastatin 10 mg PO QPM  
3.  cabergoline .25 mg oral DAILY  
4.  Levothyroxine Sodium 112 mcg PO DAILY  
5.  Lisinopril 5 mg PO DAILY  
6.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
7.  sildenafil 100 mg oral DAILY:PRN  
8.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small left centrum semiovale infarct

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,  

 You were hospitalized due to symptoms of right sided sensory 
changes resulting from a TRANSIENT ISCHEMIC ATTACK, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 - High blood pressure  
 - High cholesterol

 We are changing your medications as follows:  
 - Please start Aspirin 81mg daily to help prevent future 
strokes 

 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  
 
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___